US07241785B2
A mixture of methyl 3-benzyloxy-1-methyl-1H-pyrazol-4-ylacetate (12.2 g), 5% palladium-carbon (25.0 g), tetrahydrofuran (100 ml) and ethanol (100 ml) was stirred under hydrogen atmosphere for 5 hrs. Palladium-carbon was filtered off and the filtrate was concentrated to give methyl 3-hydroxy-1-methyl-1H-pyrazol-4-ylacetate (6.33 g, yield 79%) as colorless crystals. The crystals were recrystallized from tetrahydrofuran-hexane. melting point: 118–119° C.

reactant | methyl 3-benzyloxy-1-methyl-1H-pyrazol-4-ylacetate | 12.2 g | C(C1=CC=CC=C1)OC1=NN(C=C1CC(=O)OC)C | C14H16N2O3
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 25.0 g | [C].[Pd]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | methyl 3-hydroxy-1-methyl-1H-pyrazol-4-ylacetate | 6.33 g, yield 79% | OC1=NN(C=C1CC(=O)OC)C | C7H10N2O3
